US05837878
Methyl 4-bromomethyl-2,6-diacetoxybenzoate (45.8 grams, 133 mmoles) was dissolved in N,N-dimethylformamide (150 mL), and sodium azide (8.8 g, 135 mmoles) was added. The reaction mixture was stirred for 6 hours at room temperature. Dichloromethane (350 mL) was added to the reaction mixture, and this solution was washed with water (250 mL), 1M aqueous hydrochloric acid (250 mL), and saturated aqueous sodium chloride (150 mL). The organic solution was dried over anhydrous magnesium sulfate, filtered, and evaporated to a clear, pale yellow oil. The oil was dissolved in methanol (750 mL) and transferred to a 2 L Parr hydrogenation flask. Palladium on carbon catalyst (10% [w/w], 1.5 g) in water (10 mL) was added, followed by concentrated hydrochloric acid (15 mL). The flask was affixed to a Parr hydrogenator, and the mixture was shaken at room temperature under 30 psi of hydrogen for 24 hours. The reaction mixture was filtered through a 0.45 mm nylon filter. The retained solid was then washed with methanol (150 mL), and concentrated hydrochloric acid (7 mL) was added to the filtrate. The filtrate was heated to reflux for 2 hours, cooled to room temperature, and evaporated to dryness to give an off-white solid. This solid was dissolved in hot denatured ethanol (250 mL) and the solution was allowed to cool to room temperature. White crystals formed quickly. The mixture was then chilled for 16-18 hours at 4° C. to complete crystallization. The solid was filtered, washed with a little cold ethanol (50 mL) and then diethyl ether (150 mL), and dried in vacuo over potassium hydroxide pellets to afford 16.0 grams (52% yield based on monobromo starting material) of methyl 4-aminomethyl-2,6-dihydroxybenzoate hydrochloride (m.p. >260° C., open capillary, uncorrected).

reactant | Methyl 4-bromomethyl-2,6-diacetoxybenzoate | 133 mmoles, 45.8 grams | BrCC1=CC(=C(C(=O)OC)C(=C1)OC(C)=O)OC(C)=O | C13H13BrO6
reactant | sodium azide | 135 mmoles, 8.8 g | [N-]=[N+]=[N-].[Na+]
reactant | Dichloromethane | 350 mL | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
solvent | ethanol | 250 mL | C(C)O | C2H6O
product | methyl 4-aminomethyl-2,6-dihydroxybenzoate hydrochloride | 16.0 grams, 52% yield | Cl.NCC1=CC(=C(C(=O)OC)C(=C1)O)O | InChI=1S/C9H11NO4.ClH/c1-14-9(13)8-6(11)2-5(4-10)3-7(8)12;/h2-3,11-12H,4,10H2,1H3;1H
